### ISSUE TITLE
[TODO] Section 32: Complete 7 example and eligibility proofs

### ISSUE THREAD

**Issue by kavanaghpatrick** [kavanaghpatrick/us-tax-code-lean#57]
## Context

During Phase 2 bug fixes (issue #42), we added Currency instances and replaced failing example proofs with `sorry` for build stability. Seven proofs need completion with stable tactics.

## Location

**File**: `src/TaxCode/Section32.lean`

### Example Computation Proofs (Lines 339, 372)

**1. `example_1_value` (Line 339)**
```lean
theorem example_1_value : calculate_credit example_profile_1 example_tax_year = 2142 := by
  -- TODO: Complete proof with stable tactics (computation too complex for decide/native_decide)
  sorry
```

**2. `example_2_value` (Line 372)**
```lean
theorem example_2_value : calculate_credit example_profile_2 example_tax_year = 737 := by
  -- TODO: Complete proof with stable tactics (computation too complex for rfl/decide)
  sorry
```

**Challenge**: Complex EIC calculations don't reduce automatically with `decide` or `native_decide`.

**Suggested approach**:
- Break down `calculate_credit` into steps
- Use `unfold` and `simp` strategically
- May need `norm_num` for arithmetic
- Consider `#reduce` to verify expected value first

### Eligibility Check Proofs (Lines 393, 413, 423, 434, 482)

**3. `excess_investment_income_ineligible` (Line 393)**
```lean
theorem excess_investment_income_ineligible (tp : TaxpayerProfile) (ty : TaxYear) :
  tp.investment_income > get_investment_income_limit ty →
  is_eligible_individual tp ty = false := by
  -- TODO: Complete proof with stable tactics (goal structure changed after fixes)
  sorry
```

**4. `investment_income_ok_may_qualify` (Line 413)**
- Shows investment income at/below limit doesn't disqualify

**5. `mfs_always_ineligible` (Line 423)**
- Proves MFS filing status always results in ineligibility

**6. `non_mfs_may_qualify` (Line 434)**
- Shows other filing statuses may qualify with example

**7. `eligibility_requirements_complete` (Line 482)**
```lean
theorem eligibility_requirements_complete (tp : TaxpayerProfile) (ty : TaxYear) :
  is_eligible_individual tp ty = true →
  tp.filing_status ≠ FilingStatus.MarriedFilingSeparately ∧
  tp.has_valid_tin = true ∧
  (tp.filing_status ≠ FilingStatus.MarriedFilingJointly ∨ tp.spouse_has_valid_tin = true) ∧
  ¬tp.is_nonresident_alien ∧
  ¬tp.claims_section_911_benefits ∧
  ¬tp.is_qualifying_child_of_another ∧
  tp.investment_income ≤ get_investment_income_limit ty := by
  -- TODO: Complete proof with stable tactics (case analysis too complex for tauto)
  sorry
```

**Challenge**: Goal structure changed after adding Currency instances; `tauto` no longer sufficient.

**Suggested approach**:
- Case analysis on `FilingStatus` with `cases`
- Use `constructor` to build conjunctions
- `omega` for investment income inequality
- `simp` to simplify boolean conditions

## Impact

- **Example proofs**: Verify EIC calculations are correct
- **Eligibility proofs**: Formalize IRC § 32 requirements

## Related

- Original issue: #42
- Commit: bd8d77d

## Priority

**MEDIUM** - Theorems verify critical EIC eligibility rules
